US07732460B2
(b) 2-[(3,6-Dichloro-4-pyridazinyl)oxy]ethanol
A solution of ethylene glycol (55 ml) in tetrahydrofuran (200 ml) was treated at around 0° C. (ice bath cooling) with sodium hydride (60% dispersion in oil, 5.9 g) over 40 minutes. After the addition was complete, 3,4,6-trichloropyridazine (27 g) containing isomers of bromo-dichloropyridazine as impurity was added portionwise and washed in with more dry THF (50 ml) and the mixture was stirred at 0° C. for 1 hour and then at room temperature overnight. The mixture was concentrated (to ⅓ volume) then diluted with aqueous sodium bicarbonate solution and extracted with chloroform (5×) and ethyl acetate (3×). The combined organic extracts were washed with water, dried over sodium sulphate and evaporated and the solids filtered off and washed with CHCl3 (×3) and dried in a vacuum oven overnight at 40° C. affording a white solid (25.5 g, 83%), containing some bromo-derivative (10-15%).

reactant | ethylene glycol | 55 ml | C(CO)O | C2H6O2
reactant | sodium hydride | 5.9 g | [H-].[Na+]
reactant | 3,4,6-trichloropyridazine | 27 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | bromo-dichloropyridazine | BrC=1C(=C(N=NC1)Cl)Cl | C4HBrCl2N2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-[(3,6-Dichloro-4-pyridazinyl)oxy]ethanol | 25.5 g, 83% | ClC=1N=NC(=CC1OCCO)Cl | C6H6Cl2N2O2
